US04933355
Ethyl 2-(3-p-toluenesulfonylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 6 g of ethyl 2-aminothiazole-4-ylglyoxylate, 6 g of p-toluenesulfonyl isocyanate and 40 ml of dimethylformamide. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazole-4-ylglyoxylate | 6 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-toluenesulfonyl isocyanate | 6 g | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-p-toluenesulfonylureido)thiazol-4-ylglyoxylate | C1(=CC=C(C=C1)S(=O)(=O)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O)C | C15H15N3O6S2
